US06514964B1
To a stirred solution of 2-bromo-5-methoxybenzaldehyde (1 eq) in dichloroethane was added 3-aminopropanol (1.5 eq) followed by NaBH(OAc)3 (2 eq) and acetic acid (4 eq) and the resulting mixture was stirred at RT under nitrogen for 8 h. The reaction mixture was quenched by careful addition of 2M Na2CO3 solution and stirred 1 h. The mixture was concentrated in vacuo and poured into diethyl ether. The phases were separated and the organic phase washed with 1N HCl solution. The aqueous phase was then washed with diethyl ether and subsequently basified with 1N NaOH solution. The aqueous phase was extracted with diethyl ether, dried over Na2SO4 and concentrated in vacuo to give 3-(((2-bromo-5-methoxyphenyl)methyl) amino)propan-1-ol as a clear oil. EI-MS m/z 274, 276 (M+H)+

reactant | 2-bromo-5-methoxybenzaldehyde | 1 eq | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
reactant | 3-aminopropanol | 1.5 eq | NCCCO | C3H9NO
reactant | NaBH(OAc)3 | 2 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 4 eq | C(C)(=O)O | C2H4O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-(((2-bromo-5-methoxyphenyl)methyl) amino)propan-1-ol | BrC1=C(C=C(C=C1)OC)CNCCCO | C11H16BrNO2
